US07053107B2
6-Chloro-1H-indazole-3-carboxylic acid methyl ester
To a solution of (2-Acetylamino-4-chloro-phenyl)-acetic acid methyl ester )32.0 g, 133 mmol) in acetic acid (200 mL) stirred at 90 degree Celsius was added tert-butyl nitrite (20.5 mL, 172.3 mmol) over 1 hour. The reaction was poured into water (1.4 L) and the solids were recovered by filtration. The yellow precipitate was dissolved in EtOAc, then washed with saturated NaCl. The organic was dried over MgSO4, filtered, and concentrated to a solid. The solids were triturated with hexanes and filtered to afford the desired material (21.63 g, 77%).

reactant | (2-Acetylamino-4-chloro-phenyl)-acetic acid methyl ester | COC(CC1=C(C=C(C=C1)Cl)NC(C)=O)=O | C11H12ClNO3
reactant | tert-butyl nitrite | 172.3 mmol, 20.5 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | water | 1.4 L | O | H2O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 6-Chloro-1H-indazole-3-carboxylic acid methyl ester | 21.63 g, 77% | COC(=O)C1=NNC2=CC(=CC=C12)Cl | C9H7ClN2O2
